US08729068B2
A mixture of 2.12 g of 2-(trimethylsilyl)ethyl 3-(cyclopropylsulfamoyl)benzoate, 1.45 g of ethyl 4-bromobutyrate, 2.57 g of potassium carbonate, and 21 mL of DMF was stirred at 80° C. overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 2.48 g of 2-(trimethylsilyl)ethyl 3-[cyclopropyl(4-ethoxy-4-oxobutyl)sulfamoyl]benzoate as a colorless oily substance. ESI+: 456

reactant | 2-(trimethylsilyl)ethyl 3-(cyclopropylsulfamoyl)benzoate | 2.12 g | C1(CC1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C15H23NO4SSi
reactant | ethyl 4-bromobutyrate | 1.45 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 2.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 21 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(trimethylsilyl)ethyl 3-[cyclopropyl(4-ethoxy-4-oxobutyl)sulfamoyl]benzoate | 2.48 g | C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)CCCC(=O)OCC | C21H33NO6SSi
